US04603130
In the same manner as described in Reference Example 4, N-methylhomopiperazine (15 g) and 2-chloromethylbenzimidazole (10 g) are reacted, and the crude crystal thus obtained is recrystallized from toluene to give 2-(4-methyl-1-homopiperazinyl)methylbenzimidazole (3.81 g) as pale yellow prisms, m.p. 152°-155° C.

reactant | N-methylhomopiperazine | 15 g | CN1CCNCCC1 | C6H14N2
reactant | 2-chloromethylbenzimidazole | 10 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
product | 2-(4-methyl-1-homopiperazinyl)methylbenzimidazole | 3.81 g | CN1CCN(CCC1)CC=1NC2=C(N1)C=CC=C2 | C14H20N4
